US07297649B2
Synthesis of 1,1-dichloro-1-vinyltrimethyldisilazane
In a 250 ml three-neck flask, 50 ml of hexamethyldisilazane (38.7 g, 0.24 mol) are admixed with 70 ml of vinyltrichlorosilane (88.9 g, 0.55 mol) and stirred overnight at room temperature. The mixture is fractionated under reduced pressure. After trimethylchlorosilane and excess vinyltrichlorosilane have been distilled off, (1,1-dichloro-1-vinyl)trimethyldisilazane goes over as a clear, colorless liquid. The boiling point is 40° C. at 11 mbar, and the yield is 80%.

reactant | hexamethyldisilazane | 0.24 mol, 50 ml, 38.7 g | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | vinyltrichlorosilane | 0.55 mol, 70 ml, 88.9 g | C(=C)[Si](Cl)(Cl)Cl | C2H3Cl3Si
product | 1,1-dichloro-1-vinyltrimethyldisilazane | yield is 80% | Cl[Si](N[Si](C)(C)C)(C=C)Cl | C5H13Cl2NSi2
